US07279575B2
Preparation of 5-phenylpiperidine-2,4-dione
Sodium (380 mg, 16.52 mmol) was dissolved in anhydrous ethanol (13 mL) and the resulting solution was treated dropwise with 3-(2-ethoxycarbonyl-acetylamino)-2-phenyl-propionic acid ethyl ester (4.23 g, 13.76 mmol) dissolved in anhydrous toluene (35 mL). The reaction was kept at 80° C. for 1.5 hours. After cooling, the mixture was extracted with water. The aqueous extracts were acidified with 2 N HCl, extracted with ethyl acetate and the organic layers were collected, dried over Na2SO4 and evaporated to dryness to obtain ethyl 2,4-dioxo-5-phenylpiperidine-3-carboxylate (1.73 g, Y=48%) which was used for the next step without further purification. Ethyl 2,4-dioxo-5-phenylpiperidine-3-carboxylate (1.73 g, 6.63 mmol) was dissolved in acetonitrile containing 1% of water (30 mL) and the resulting solution was refluxed for 2 hours. After evaporating to dryness, the crude material was chromatographed on silica gel, eluting with methylene chloride/methanol 92/8, to give the title compound (780 mg, Y=62%) as a solid.

reactant | Ethyl 2,4-dioxo-5-phenylpiperidine-3-carboxylate | 6.63 mmol, 1.73 g | O=C1NCC(C(C1C(=O)OCC)=O)C1=CC=CC=C1 | C14H15NO4
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 5-phenylpiperidine-2,4-dione | 780 mg, 62% | C1(=CC=CC=C1)C1C(CC(NC1)=O)=O | C11H11NO2
